US04128728
70 g of crotonaldehyde is dripped in the course of one hour into a mixture of 400 g of diethyl ketone and 10 g of a 30% solution of sodium methylate in methanol which is boiling under reflux and the reaction mixture is boiled for another half hour under reflux. The whole is neutralized with glacial acetic acid and the mixture obtained is filtered. 325 g of diethyl ketone is recovered by distillation of the filtrate; 55 g of 2,5,6-trimethyl-2-cyclohexen-1-one having a boiling point of from 74° to 76° C. at 12 mm Hg is obtained. The yield with reference to crotonaldehyde is 40%.

reactant | crotonaldehyde | 70 g | C(\C=C\C)=O | C4H6O
reactant | diethyl ketone | 400 g | C(C)C(=O)CC | C5H10O
reactant | sodium methylate | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2,5,6-trimethyl-2-cyclohexen-1-one | 55 g | CC=1C(C(C(CC1)C)C)=O | C9H14O
